US04870076
Ethyl [2-(2-(4-fluorobenzenesulphonylamino)-ethyl)-1-methylpyrrol-5-yl]-acetate
1.69 g of 2-(2-(4-fluorobenzenesulphonylamino)-ethyl)-1-methylpyrrol are dissolved in 6 ml of ethylene chloride and 0.06 g of copper(I)chloride are added. Under a nitrogen atmosphere the mixture is refluxed and then a solution of 0.34 g of ethyl diazoacetate in 6 ml of ethylene chloride is slowly added dropwise. After 20 minutes the evolution of nitrogen has ended and the suspension is concentrated to dryness by rotary evaporation. Then the residue is chromatographed over a silica gel column (ethylene chloride/ethyl acetate=100/1).

reactant | 2-(2-(4-fluorobenzenesulphonylamino)-ethyl)-1-methylpyrrol | 1.69 g | FC1=CC=C(C=C1)S(=O)(=O)NCCC=1N(C=CC1)C | C13H15FN2O2S
reactant | ethyl diazoacetate | 0.34 g | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
solvent | ethylene chloride | 6 ml | C(CCl)Cl | C2H4Cl2
solvent | ethylene chloride | 6 ml | C(CCl)Cl | C2H4Cl2
catalyst | copper(I)chloride | 0.06 g | [Cu]Cl
product | Ethyl [2-(2-(4-fluorobenzenesulphonylamino)-ethyl)-1-methylpyrrol-5-yl]-acetate | FC1=CC=C(C=C1)S(=O)(=O)NCCC=1N(C(=CC1)CC(=O)OCC)C | C17H21FN2O4S
